US04065620
3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylic acid
A solution of 75 mg. of tert-butyl 3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylate in 10 cc. of 98-100 percent formic acid, any remainder being water, was allowed to stand at room temperature for 1.5 hours. After evaporation under reduced pressure of the formic acid, isolation of the acidic material by extraction provided 55 mg. of the desired above-named acid, which could be crystallized from ether or ethanol, m.p., 193°-196° C. The IR, NMR, and ultraviolet (UV) spectra and elemental analyses were in accord with the assigned structure.

reactant | tert-butyl 3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylate | C(C)OC(=O)C=CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(COC2=CC=CC=C2)=O)=O | C24H28N2O7S
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | 3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylic acid | C(C)OC(=O)C=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O | C20H20N2O7S
